US04254024
In a fashion analogous to Step B of Example 3A, 1.1 g of Boc-Tyr-DAla-Phe-Met-OH was treated with 10% anisole in TFA and chromatographed on Amberlite XAD-2 to give 0.64 g (60%) of H-Tyr-DAla-Phe-Met-OH, m.p. 248°-249° C., [α]D25.5 =41.06° (c, 1.00 in 50% acetic acid).

reactant | Boc-Tyr-DAla-Phe-Met-OH | 1.1 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)O)C(=O)OC(C)(C)C | C31H42N4O8S
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | H-Tyr-DAla-Phe-Met-OH | 0.64 g, 60% | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)O | C26H34N4O6S
